US05476875
aaa) A suspension of 2.9 g of 2-bromo-4'-hydroxy-3'-methoxy-5'-nitroacetophenone and 761.2 mg of thiourea in 170 ml of ethanol is treated at 60° with 820.3 mg of sodium acetate and stirred for 6 hours. The reaction mixture is then evaporated, the residue is treated with 170 ml of water and heated to 60° for 30 minutes. After cooling the product is filtered under suction and washed with water. There is obtained 4-(2-amino-4-thiazolyl)-2-methoxy-6-nitrophenol of m.p. 248°-250° (from ethanol).

reactant | 2-bromo-4'-hydroxy-3'-methoxy-5'-nitroacetophenone | 2.9 g | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)OC | C9H8BrNO5
reactant | thiourea | 761.2 mg | NC(=S)N | CH4N2S
reactant | sodium acetate | 820.3 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 170 ml | C(C)O | C2H6O
product | 4-(2-amino-4-thiazolyl)-2-methoxy-6-nitrophenol | NC=1SC=C(N1)C1=CC(=C(C(=C1)[N+](=O)[O-])O)OC | C10H9N3O4S
